US04470988
A solution of 6-hydroxy-3,4,5,6-tetrahydro-1-benzazocin-2-(1H)one (9.2 g) in acetic anhydride (200 ml) is maintained at 80° C. for 3 hours. The reaction mixture is cooled to room temperature and the solvents removed under reduced pressure. Ether (300 ml) is added, and their resulting solution washed with water (150 ml) and dried over magnesium sulfate. The solvent is removed under reduced pressure to give 6-acetoxy-3,4,5,6-tetrahydro-1-benzazocin-2(1H)-one.

reactant | 6-hydroxy-3,4,5,6-tetrahydro-1-benzazocin-2-(1H)one | 9.2 g | OC1CCCC(NC2=C1C=CC=C2)=O | C11H13NO2
reactant | acetic anhydride | 200 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 6-acetoxy-3,4,5,6-tetrahydro-1-benzazocin-2(1H)-one | C(C)(=O)OC1CCCC(NC2=C1C=CC=C2)=O | C13H15NO3
